US06090753
Then, 49.2 g of sodium acetate and 40.5 g of l,l-dibromo-3,3,3-trifluoroacetone were dissolved in 400 ml of water, and the solution was heated at 80° to 90° C. for 40 minutes. The solution was cooled to 0° C., to which 75 g of the crude 2-fluoro-4-chloro-5-hydroxyphenylhydrazine hydrochloride crystals obtained above was added, and the mixture was stirred at room temperature for 70 minutes. The precipitated crystals were collected by filtration and dried under reduced pressure, which afforded 35.4 g of 3,3,3-trifluoro-2-oxopropanal 1-(4-chloro-2-fluoro-5-hydroxyphenylhydrazone).

reactant | sodium acetate | 49.2 g | C(C)(=O)[O-].[Na+]
reactant | l,l-dibromo-3,3,3-trifluoroacetone | 40.5 g | BrC(C(=O)C(F)(F)F)Br | C3HBr2F3O
reactant | 2-fluoro-4-chloro-5-hydroxyphenylhydrazine hydrochloride | 75 g | Cl.FC1=C(C=C(C(=C1)Cl)O)NN
solvent | water | 400 ml | O | H2O
product | 3,3,3-trifluoro-2-oxopropanal 1-(4-chloro-2-fluoro-5-hydroxyphenylhydrazone) | 35.4 g | ClC1=CC(=C(C=C1O)NN=CC(C(F)(F)F)=O)F | C9H5ClF4N2O2
